US07557215B2
1-{[2-(2-Hydroxymethylpyrrolidin-1-yl)ethyl]amino}-anthracene-9,10-dione (HAQ163) (scheme 2)
To [1-(2-aminoethyl)-pyrrolidin-2-yl-]methanol (1.63 g, 11.3 mmol) in pyridine (10 mL) was added 1-chloroanthraquinone (1.37 g, 5.646 mmol), and the mixture was stirred at 65° C. for 24 hours. Pyridine was removed in vacuo and the resulting mixture of oil and solid was dissolved in CH2Cl2 and washed with H2O (3×50 mL) to remove any unreacted amine. The separated organic layer was removed in vacuo and the crude product was chromatographed using CH2Cl2/CH3OH (97:3). The desired product was yielded as a red powder (0.21 g, 11%). M.p. 113-115° C.; δH(250 MHz; CDCl3); 1.75-2.0 (m, 4H), 2.25-2.35 (m, 1H), 2.6-2.8 (m, 2H), 3.15-3.3 (m, 2H), 3.35-3.55 (m, 4H), 3.75-3.85 (2×d, 1H), 7.0 (2×d, 1H), 7.45-7.6 (m, 2H), 7.65-7.8 (m, 2H), 8.2 (2×d, H), 8.45 (2×d), and 10.05 (s, 1H, C(1)NH); δC(62.9 MHz; CDCl3); 24.11, 27.15, 41.64, 52.99, 53.82, 62.61, 65.26, 113.15, 115.60, 126.57, 132.86, 133.81, 135.32, 151.49, 183.77, and 184.89; FAB MS, m/z(M+H)+ 351; Anal. calcd for C21H22N2O3: C, 71.98; H, 6.33; N, 8.00. Found: C, 71.79; H, 6.13; N, 8.07.

reactant | [1-(2-aminoethyl)-pyrrolidin-2-yl-]methanol | 11.3 mmol, 1.63 g | NCCN1C(CCC1)CO | C7H16N2O
reactant | 1-chloroanthraquinone | 5.646 mmol, 1.37 g | ClC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7ClO2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-{[2-(2-Hydroxymethylpyrrolidin-1-yl)ethyl]amino}-anthracene-9,10-dione | OCC1N(CCC1)CCNC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C21H22N2O3
